### PR TITLE
feat: formalize Gottschalk's surjunctivity conjecture

### LINKED ISSUE #2152: Gottschalk's Surjunctivity Conjecture
### What is the conjecture

 A group is **surjunctive** if every injective cellular automaton on the group is also surjective. More precisely: let $G$ be a group and let $A$ be a finite alphabet. A cellular automaton is an endomorphism $\tau: A^G \to A^G$ (where $A^G$ is the set of all functions $G \to A$) defined locally: there exists a finite set $S \subseteq G$ and a function $\phi: A^S \to A$ such that $\tau(x)(g) = \phi(x|_{gS})$ for all $x \in A^G$ and $g \in G$ (where $x|_{gS}$ denotes the restriction of $x$ to $gS$).

**Gottschalk's surjunctivity conjecture** (posed in 1973) asks: **Is every group surjunctive?**

Equivalently: For every group $G$, does the property that every injective cellular automaton is surjective hold?

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Surjunctive_group | https://link.springer.com/chapter/10.1007/978-3-642-14034-1_3 | https://groupprops.subwiki.org/wiki/Surjunctive_group | https://arxiv.org/html/2511.06586

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-02-03)

Building blocks (1-3; from search results):
- `Group` and group homomorphisms (Mathlib: `Group`, `MonoidHom`, `GroupHom`)
- Function types and injectivity/surjectivity (`Function.Injective`, `Function.Surjective`)
- Fintype for finite alphabets (Mathlib: `Fintype`)

Missing pieces (exactly 2; unclear/absent from search results):
- `CellularAutomaton`: formal definition of a cellular automaton as a local endomorphism on $A^G$ with neighborhood $S$
- `IsSurjunctive`: property linking injectivity of all cellular automata to surjectivity

Rating justification (1-2 sentences): Mathlib provides strong foundations in group theory, functions, and finiteness, but the specialized notion of cellular automata on groups and surjunctivity requires building new infrastructure from these existing foundations. This is moderate effort since the concepts build directly on standard Mathlib definitions.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-20
* ams-37

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by yurekami**
## Summary

- Formalizes Gottschalk's conjecture (1973): every group is surjunctive.
- Defines the left shift action, shift-equivariance, and surjunctivity.
- Includes the classical result that finite groups are surjunctive (as a separate `sorry`'d theorem).

Closes #2152

Split from #2197 per reviewer request.

### CODE REVIEW

File: FormalConjectures/Wikipedia/SurjunctiveGroup.lean
Comment (mo271) [inline FormalConjectures/Wikipedia/SurjunctiveGroup.lean:1]: Please rename to `.../Wikipedia/SurjunktiveGroup`

File: FormalConjectures/Wikipedia/GottschalkSurjunctivity.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
...
+theorem gottschalk_surjunctivity_conjecture (G : Type) [Group G] :
+    IsSurjunctive G := by
+  sorry
+
+/-- Every finite group is surjunctive. This is a classical result: an injective
+endomorphism of a finite set is surjective. -/
+@[category research solved, AMS 20 37]
+theorem isSurjunctive_of_finite (G : Type) [Group G] [Finite G] :
+    IsSurjunctive G := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GottschalkSurjunctivity.lean]:
```suggestion
@[category undergraduate, AMS 20 37]
theorem isSurjunctive_of_finite (G : Type) [Group G] [Finite G] :
    IsSurjunctive G := by
  intro A _ _ _ _ τ _ _ hInj
  exact Finite.surjective_of_injective hInj
```

This can easily be proved..

**Review by mo271 — APPROVED** [review]
Thanks, @yurekami !
This looks good, only two comments!

File: FormalConjectures/Wikipedia/SurjunctiveGroup.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+That is, for every group `G` and every finite alphabet `A`, every injective cellular
+automaton on `A^G` is surjective. -/
+@[category research open, AMS 20 37]
+theorem gottschalk_surjunctivity_conjecture (G : Type) [Group G] :
+    IsSurjunctive G := by
+  sorry
+
+/-- Every finite group is surjunctive. This is a classical result: an injective
+endomorphism of a finite set is surjective. -/
+@[category undergraduate, AMS 20 37]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SurjunctiveGroup.lean]:
```suggestion
@[category textbook, AMS 20 37]
```
